*****************************************************************
* NXP BUK9Y8R5-80E
*
* Polarity N-Channel
* Ratings 80V/8.500000E-003OHMS/100A
*
* Date Created Tue Feb 19 07:43:08 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y8R5-80E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 80000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00523969020789201 TC=0.0107531386746125,1.57333603545577E-06
RBD 9 4 0.000531263798600243 TC=0.0107531386746125,1.57333603545577E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.06301e-09
RG 1 2 2.41663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	3385.98
+ -10	3383.02
+ -8	3378.5
+ -6	3370.29
+ -5	3362.92
+ -4	3349.72
+ -3	3315.42
+ -2	4037.5
+ -1	3267.47
+ -0.5	2092.28
+ -0.2	1199.72
+ -0.1	880.034
+ 0	876.403
+ 0.1	884.626
+ 0.2	705.902
+ 0.5	596.985
+ 1	456.9
+ 2	322.019
+ 3	295.784
+ 4	281.765
+ 5	271.378
+ 6	263.405
+ 8	251.871
+ 10	243.348
+ 12	236.245
+ 15	227.367
+ 20	215.717
+ 25	206.537
+ 30	199.198
+ 50	181.745



.MODEL MINT NMOS(Vto=2.1069020789201 Kp=4.379146e+002 Nfs=360000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=8.60587844415727e-13
+ N=1 M=0.66 VJ=0.61 Fc=0.5 Cjo=2.107022e-09 Tt=3.088004e-08)

.ENDS

